US08217032B2
[6-Hydroxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve [6-methoxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (880 mg, 1.69 mmol) in 100 mL methylene chloride and chill in ice. Add 4.0 mL of neat boron tribromide with swirling and stir in the ice bath for 30 minutes. Allow the mixture to come to room temp and stir for an additional 1 hour. Carefully pour the mixture into a two-phase system consisting of saturated sodium bicarbonate solution and a 3/1 mixture of chloroform/isopropanol. Separate the organic layer, dry over 3 Å molecular sieves and evaporate to give 800 mg of slightly impure product. Purify on a silica gel column eluting with 3% methanol/methylene chloride to give 635 mg (74%) of the title compound: 1H-NMR (CD3OD, 400 MHz) δ7.89 (d, J=8.8 Hz, 1H); 7.69-7.42 (m, 4H); 7.45-7.42 (m, 1H); 7.31 (d, J=2.4 Hz, 1H); 7.14 (dd, J=9.2, 2.4 Hz, 1H); 7.02-6.87 (m, 3H); 4.20 (t, J=5.6 Hz, 2H); 2.84 (t, J=5.6 Hz, 2H); 2.59-2.59 (m, 4H); 1.71-1.65 (m, 4H); 1.56-1.53 (m, 2H).

reactant | [6-methoxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.69 mmol, 880 mg | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=C(C=C1)F)F)F | C31H28F3NO3
reactant | boron tribromide | 4.0 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | [6-Hydroxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 635 mg, 74% | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=C(C=C1)F)F)F | C30H26F3NO3
